US07465795B2
4-amino-N-cyclopropyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 4-methoxypyridine-3-boronic acid (640 mg, 4.20 mmol) were reacted. After purification the title compound (52 mg, 33% yield) was obtained as a white solid. 1H NMR (500 MHz, CDCl3) δ 8.58 (d, J=5.8 Hz, 1H), 8.57 (bm, 1H), 8.44 (s, 1H), 7.91 (m, 1H), 7.74 (m, 2H), 6.94 (d, J=5.8 Hz, 1H), 3.77 (s, 3H), 2.96 (m, 1H), 0.86 (m, 2H), 0.64 (m, 2H). MS APCI, m/z=336.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 4-methoxypyridine-3-boronic acid | 4.20 mmol, 640 mg | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
product | 4-amino-N-cyclopropyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide | 52 mg, 33% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1OC)C(=O)NC1CC1 | C18H17N5O2
